US06586467B2
Step B: Bromo-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-acetic acid ethyl ester
A solution of [2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-acetic acid ethyl ester (Norman, D. P. G. et al JOC 1999, 64, 9301-9306) (2.53 g, 9.23 mmol) in THF (50 mL) stirring at −78° C. under N2 is treated with a 1 M soluion of NaHMDS in THF (9.23 mL) followed by NBS (1.64 g, 9.23 mmol). After 15 min, the reaction mixture is quenched by the slow addition of water and diluted with EtOAc. The organic layer is washed with water and brine, dried (MgSO4) and concentrated under reduced pressure. The reaction mixture is purified by flash column chromatography eluted with 9:1 hexanes:EtOAc, then 2:1 hexanes:EtOAc, and finally flushed with EtOAc. The desired product, bromo-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-acetic acid ethyl ester, is recovered contaminated with 30% dibromide.

reactant | [2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-acetic acid ethyl ester | 9.23 mmol, 2.53 g | C(C)OC(CC=1N=NN(N1)C(C)(C1=CC=CC=C1)C)=O | C14H18N4O2
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | NBS | 9.23 mmol, 1.64 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 9.23 mL | C1CCOC1 | C4H8O
product | Bromo-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-acetic acid ethyl ester | C(C)OC(C(C=1N=NN(N1)C(C)(C1=CC=CC=C1)C)Br)=O | C14H17BrN4O2
